US05342846
3-{1,2,3-triazol-1-yl]-pyrrolidine hydrochloride
To a solution of N-benzyl-3-(1,2,3-triazol-1-yl) pyrrolidine (1 g, 0. 0044 mol), in methanol (50 ml) was added 10 % Pd/C (100 mg ) and conc. HCl (1 ml). The suspension was hydrogenated at r.t. and 50 psi pressure for 20 h. The Pd/C was removed by filtration and the solution was concentrated. The residue was recrystallized from methanol/ether to obtain white crystalline title compound. Yield: 680 mg (89.45%). 1H NMR (D20) δ: 2.40-2.80 (m, 2H), 3.58-3.66 (m, 2H), 3.90-3.92 (d, 2H), 5.58-5.67 (m, 1H), 8.02 (d, 1H), 8.26 (d, 1H).

reactant | N-benzyl-3-(1,2,3-triazol-1-yl) pyrrolidine | 1 g | C(C1=CC=CC=C1)N1CC(CC1)N1N=NC=C1 | C13H16N4
reactant | HCl | 1 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-{1,2,3-triazol-1-yl]-pyrrolidine hydrochloride | Cl.N1(N=NC=C1)C1CNCC1 | InChI=1S/C6H10N4.ClH/c1-2-7-5-6(1)10-4-3-8-9-10;/h3-4,6-7H,1-2,5H2;1H
